US04075199
To a solution of 2.0 grams (.025 moles) of 50% sodium hydroxide in 20 ml. of methanol, cooled to 15° C in a 50 ml. erlenmeyer flask was added 2.77 grams (.0277 moles) of 90% t-butylhydroperoxide slowly and with rapid stirring. After the addition was complete, the reaction was stirred for 10 minutes at 10° C. To the above solution was added 4.05 grams (.02 moles) of 1-t-butylazo-1-phenyl-1-chloroethane dropwise over a 15 minute period holding the temperature at 10° C. After the addition was complete, the reaction was stirred for 30 minutes at 0°-5° C, poured into 150 ml. of ice water and extracted with pentane. The pentane solution was washed with 10% potassium hydroxide solution, water, saturated NaHCO3 solution, water, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure to leave 3.3 grams (65% yield) of crude 1-t-butylazo-1-phenyl-1-(t-butylperoxy)ethane. The infrared spectrum indicated the product was contaminated to a small extent by 1-t-butylazo -1-phenyl-1-methoxyethane which resulted from the chloro compound reacting to a small extent with the methanol solvent.

reactant | sodium hydroxide | .025 moles, 2.0 grams | [OH-].[Na+]
reactant | t-butylhydroperoxide | .0277 moles, 2.77 grams | C(C)(C)(C)OO | C4H10O2
reactant | 1-t-butylazo-1-phenyl-1-chloroethane | .02 moles, 4.05 grams | C(C)(C)(C)N=NC(C)(Cl)C1=CC=CC=C1 | C12H17ClN2
solvent | methanol | CO | CH4O
product | 1-t-butylazo-1-phenyl-1-(t-butylperoxy)ethane | 3.3 grams, 65% yield | C(C)(C)(C)N=NC(C)(OOC(C)(C)C)C1=CC=CC=C1 | C16H26N2O2
